US07772253B2
2-Methyl-2-[3-(piperidin-4-ylcarbamoyl)-phenoxy]-propionic acid ethyl ester
2.08 g (5.0 mmol) of 4-[3-(1-ethoxycarbonyl-1-methyl-ethoxy)-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester was dissolved under argon in 80 mL of MeCl2; to the stirred solution, 3.66 mL (5.46 g=10 eq.) of TFA was added drop by drop and stirring continued at rt for 5 h. Then, the reaction mixture was evaporated i.V., the residue was dissolved in MeCl2 and water, the pH was adjusted to ˜10 with sodium carbonate solution and the mixture was extracted twice with MeCl2; the organic phases were washed with water, dried over MgSO4, filtered and evaporated i.V. The crude product was purified by chromatography (silicagel, eluent:gradient of MeCl2/MeOH) to yield 1.20 g of the title compound as colorless oil. MS: 335.2 (MH+).

reactant | 4-[3-(1-ethoxycarbonyl-1-methyl-ethoxy)-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester | 5.0 mmol, 2.08 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(C1=CC(=CC=C1)OC(C)(C)C(=O)OCC)=O | C23H34N2O6
reactant | TFA | 3.66 mL, 5.46 g, 10 eq. | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | MeCl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | 2-Methyl-2-[3-(piperidin-4-ylcarbamoyl)-phenoxy]-propionic acid ethyl ester | 1.20 g | C(C)OC(C(C)(OC1=CC(=CC=C1)C(NC1CCNCC1)=O)C)=O | C18H26N2O4
